US08212041B2
7-Methoxy-4-((5-phenyl-[1,2,3]triazolo[1,5-a]pyridin-3-yl)methoxy)quinoline
(5-Phenyl-[1,2,3]triazolo[1,5-a]pyridin-3-yl)methanol To a cooled (ice bath) suspension of lithium tetrahydroaluminate (0.0929 g, 2.45 mmol) in 2 mL THF (anhy) was added slowly a solution of methyl 5-phenyl-[1,2,3]triazolo[1,5-a]pyridine-3-carboxylate (0.310 g, 1.22 mmol) in 20 mL THF (internal temp remained <20 C). The mixture was allowed to stir in the ice bath 10 minutes. The mixture was diluted with EtOAc, washed with water, sat. NaHCO3, the organic layer dried over Na2SO4, and filtered. The aqueous layer still had uv activity so a solution of Rochelle's salt and EA were added and the mixture stirred 30 min. The organic layer was washed with sat NaHCO3, dried over Na2SO4, filtered, combined with main portion and evaporated. The title compound was isolated as a yellow solid.

reactant | (5-Phenyl-[1,2,3]triazolo[1,5-a]pyridin-3-yl)methanol | C1(=CC=CC=C1)C1=CC=2N(C=C1)N=NC2CO | C13H11N3O
reactant | lithium tetrahydroaluminate | 2.45 mmol, 0.0929 g | [AlH4-].[Li+]
reactant | methyl 5-phenyl-[1,2,3]triazolo[1,5-a]pyridine-3-carboxylate | 1.22 mmol, 0.310 g | C1(=CC=CC=C1)C1=CC=2N(C=C1)N=NC2C(=O)OC | C14H11N3O2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Methoxy-4-((5-phenyl-[1,2,3]triazolo[1,5-a]pyridin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC=1N=NN2C1C=C(C=C2)C2=CC=CC=C2 | C23H18N4O2
